US07968725B2
d) Isobutyl-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-(4-trifluoromethyl-phenyl)-amine
A solution of (2-methyl-allyl)-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-(4-trifluoromethyl-phenyl)-amine (270 mg, 0.6 mmol), Pd/C (10%, 30 mg) in methanol (30 mL) was hydrogenated for 4 h. The mixture was filtered through Celite, washed with methanol, and evaporated. The residue was dissolved in CH2Cl2, filtered and evaporated to give the product as a white solid (250 mg, 92%). 1H NMR (300 MHz, CDCl3) δ 8.12 (d, J=7.91 Hz, 2H), 7.70 (d, J=8.29 Hz, 2H), 7.58-7.66 (m, 2H), 7.38 (d, J=8.29 Hz, 2H), 7.06 (s, 1H), 6.45 (s, 1H), 3.95 (d, J=7.16 Hz, 2H), 2.25 (s, 3H), 2.10-2.22 (m, 1H), 0.98 (d, J=6.78 Hz, 6H). MS m/e 453.3 (M+H).

reactant | (2-methyl-allyl)-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-(4-trifluoromethyl-phenyl)-amine | 0.6 mmol, 270 mg | CC(CN(C1=CC=C(C=C1)C(F)(F)F)C1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F)=C | C24H20F6N2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | Isobutyl-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-(4-trifluoromethyl-phenyl)-amine | 250 mg, 92% | C(C(C)C)N(C1=CC=C(C=C1)C(F)(F)F)C1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C24H22F6N2
